US04034090
Iodomethyl pivalate (2.66 g.) is added to a suspension of the potassium salt of 2-carboxy-3-[(2-methyl-1,3,4-thiadiazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo-[4.2.0]oct-2-ene (5.18 g.) in dimethyl formamide (100 cc.) cooled to 0° C. The reaction mixture is stirred for 10 minutes at 5° C.; it becomes limpid and is poured into a decanting funnel containing ethyl acetate (100 cc.) and water (200 cc.). The organic phase is washed with a saturated sodium bicarbonate solution (100 cc.) and then with a saturated sodium chloride solution (100 cc.). The organic phase is dried over sodium sulphate, treated with decolourising charcoal, filtered and concentrated to dryness under reduced pressure (20 mm Hg). The residue (5 g.) is chromatographed on silica (80 g.). A product (4.5 g.) is eluted with a 70-30 by volume mixture of ethyl acetate and cyclohexane, and is crystallised from a mixture of ethyl acetate and cyclohexane (50-50 by volume) (60 cc.). 3-[(2-Methyl-1,3,4-thiadiazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-2-pivaloyloxymethoxycarbonyl-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (3 g.) is thus obtained as white crystals m.p. approximately 110° C.

reactant | Iodomethyl pivalate | 2.66 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | potassium | [K] | K
reactant | 2-carboxy-3-[(2-methyl-1,3,4-thiadiazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo-[4.2.0]oct-2-ene | 5.18 g | C(=O)(O)C=1N2C(C(C2SCC1CSC1=NN=C(S1)C)NC(CC=1SC(SC1)=O)=O)=O | C16H14N4O5S5
reactant | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 100 cc | CN(C=O)C | C3H7NO
solvent | water | 200 cc | O | H2O
product | 3-[(2-Methyl-1,3,4-thiadiazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-2-pivaloyloxymethoxycarbonyl-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 3 g | CC=1SC(=NN1)SCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)OCOC(C(C)(C)C)=O | C22H24N4O7S5
